US08859584B2
1-(6-chlorochroman-3-yl)-3-((R)-2-hydroxy-2,3-dihydro-1H-inden-4-yl)urea
A solution of N,N-disuccinimidyl carbonate (86 mg, 0.33 mmol), acetonitrile (3 mL), pyridine (0.027 mL, 0.335 mmol), and Example 1E (50 mg, 0.33 mmol) was stirred at ambient temperature. After 30 minutes, N,N-diisopropylethylamine (0.12 mL, 0.67 mmol) and 6-chlorochroman-3-one (synthesized by the procedure described in WO 2008/079683) (62 mg, 0.335 mmol) were added. After 10 minutes, 2N HCl (20 mL) and EtOAc (100 mL) were added, the layers were separated, and the organic layer was washed with brine (20 mL). The organic layer was dried (Na2SO4), filtered, and concentrated. The resulting oil was triturated with methylene chloride to yield crystalline title product (70 mg, 68% yield). MS (ESI+) m/z 359 (M+H)+.

reactant | N,N-disuccinimidyl carbonate | 0.33 mmol, 86 mg | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
reactant | pyridine | 0.335 mmol, 0.027 mL | N1=CC=CC=C1 | C5H5N
reactant | N,N-diisopropylethylamine | 0.67 mmol, 0.12 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 6-chlorochroman-3-one | ClC=1C=C2CC(COC2=CC1)=O | C9H7ClO2
reactant | HCl | 2N, 20 mL | Cl | ClH
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 1-(6-chlorochroman-3-yl)-3-((R)-2-hydroxy-2,3-dihydro-1H-inden-4-yl)urea | 70 mg, 68% yield | ClC=1C=C2CC(COC2=CC1)NC(=O)NC1=C2C[C@@H](CC2=CC=C1)O | C19H19ClN2O3
